*Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar
*
* This is the potentiometer
*
*  1---/\/\/\/---2
*        |
*        3
*
.SUBCKT pot 1 2 3
.param k=limit(cur,0.1m,.9999)
R0 1 3 {R*(1-k)}
R1 3 2 {R*(k)}
.ENDS


